US05162318
To a solution of N-(2-nitrophenyl)-N',N'-dimethylethylenediamine (9.70 g) in methanol (50 ml) were added concentrated hydrochloric acid (8 ml) and 10% palladium-on-carbon (0.97 g) and the mixture was stirred under a hydrogen atmosphere at atmospheric pressure for 3.5 hours. The catalyst was filtered off and the filtrate was distilled off under reduced pressure to give 11.70 g of N-(2-aminophenyl)-N',N'-dimethylethylenediamine dihydrochloride.

reactant | N-(2-nitrophenyl)-N',N'-dimethylethylenediamine | 9.70 g | [N+](=O)([O-])C1=C(C=CC=C1)NCCN(C)C | C10H15N3O2
reactant | hydrochloric acid | 8 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium-on-carbon | 0.97 g | [Pd] | Pd
product | N-(2-aminophenyl)-N',N'-dimethylethylenediamine dihydrochloride | 11.70 g | Cl.Cl.NC1=C(C=CC=C1)NCCN(C)C | InChI=1S/C10H17N3.2ClH/c1-13(2)8-7-12-10-6-4-3-5-9(10)11;;/h3-6,12H,7-8,11H2,1-2H3;2*1H
